US07393844B2
A mixture of [4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methoxy-6-(trifluoromethyl)pyridin-3-yl]acetaldehyde (1.55 g, 4.26 mmol), aminodiphenylmethane (1.11 mL, 6.40 mmol), and powdered molecular sieves (4 Å, 2.80 g) in DCM (20 mL) was stirred for 30 min. Then sodium triacetoxyborohydride (132 mg, 0.625 mmol) was added. The resulting mixture was stirred overnight, diluted with DCM, filtered, and washed with sat. aq. Na2CO3. The layers were separated, and the aq. solution was extracted with DCM. The combined DCM layers were dried over Na2SO4, and evaporated. The residue was purified by column chromatography (silica gel, 100% DCM) to yield N-benzhydryl-2-[4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methoxy-6-(trifluoromethyl)pyridin-3-yl]ethanamine (1.42 g, 62.8%). 1H NMR (CDCl3, 400 MHz): δ 7.48 (s, 1H), 7.18-7.38 (m, 10H), 4.84 (s, 1H), 4.78 (s, 2H), 3.81 (s, 3H), 2.77 (m, 4H), 1.62 (br s, 1H), 0.97 (s, 9H), 0.12 (s, 6H). LC-MS calc. for C29H37F3N2O2Si: 530.26; Found: 531 (M+H).

reactant | [4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methoxy-6-(trifluoromethyl)pyridin-3-yl]acetaldehyde | 4.26 mmol, 1.55 g | [Si](C)(C)(C(C)(C)C)OCC1=C(C(=NC(=C1)C(F)(F)F)OC)CC=O | C16H24F3NO3Si
reactant | aminodiphenylmethane | 6.40 mmol, 1.11 mL | NC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13N
reactant | sodium triacetoxyborohydride | 0.625 mmol, 132 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-benzhydryl-2-[4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methoxy-6-(trifluoromethyl)pyridin-3-yl]ethanamine | 1.42 g, 62.8% | C(C1=CC=CC=C1)(C1=CC=CC=C1)NCCC=1C(=NC(=CC1CO[Si](C)(C)C(C)(C)C)C(F)(F)F)OC | C29H37F3N2O2Si
